US06380219B1
To a solution of dimethylcarbamoylmethyl(4-methoxybenzenesulfonyl)amino-3-methylbutyric acid (1.42 grams, 3.81 mmol) and 1-hydroxybenztriazole hydrate (687 mg, 4.48 mmol) in dry dimethylformamide (7 mL) was added 1-(3-dimethylaminopropyl)-3-ethyolcarbodiimide hydrochloride (974 mg, 5.08 mmol). After stirring for 30 minutes, hydroxylamine hydrochloride (1.17 grams, 16.8 mmol) and then N-methylmorpholine (2.8 mL, 25.5 mmol) were added. The mixture was stirred at room temperature overnight and then concentrated under vacuum. The residue was taken up in ethyl acetate and the resulting solution was washed sequentially with water, 0.5 N hydrochloric acid solution and brine. The solution was then dried over magnesium sulfate and concentrated under vacuum to leae an oil which was chromatographed on silica gel eluting successively with ethyl acetate, 5% methanol in chloroform and 10% methanol in chloroform to afford 2-[dimethyl-carbamoylmethyl(4-methoxybenzenesulfonyl)amino]-N-hydroxy-3-methylbutyramide as a white solid, 390 mg (26%). 1H NMR (DMSO-d6): δ 10.70 (br s, 1H), 8.89 (s, 1H), 7.80 (d, J=8.9 Hz, 2H), 7.10 (d, J=8.9 Hz, 2H), 4.62 (d, J=17.7 Hz, 1H), 4.14 (d, J=17.7 Hz, 1H), 3.84 (s, 3H), 3.40 (d, J=10.4 Hz, 1H), 2.97 (s, 3H), 2.82 (s, 3H), 1.88-1.72 (m, 1H), 0.72 (d, J=6.5 Hz, 6H); MS (thermospray): m/z 388 (M+1); HRMS calculated for C16H26N3O6S (M+H): 388.1542. Found: 388.1592.

reactant | dimethylcarbamoylmethyl(4-methoxybenzenesulfonyl)amino-3-methylbutyric acid | 3.81 mmol, 1.42 grams | CN(C(=O)CC(C(=O)O)(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC)C | C16H24N2O6S
reactant | 1-hydroxybenztriazole hydrate | 4.48 mmol, 687 mg | O.ON1N=NC2=C1C=CC=C2
reactant | hydroxylamine hydrochloride | 16.8 mmol, 1.17 grams | Cl.NO
reactant | N-methylmorpholine | 25.5 mmol, 2.8 mL | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 2-[dimethyl-carbamoylmethyl(4-methoxybenzenesulfonyl)amino]-N-hydroxy-3-methylbutyramide | CC(C(N)=O)(N(C(C(=O)NO)C(C)C)S(=O)(=O)C1=CC=C(C=C1)OC)C | C16H25N3O6S
